US04946869
Add 2.5 g of ethylamino hydrochloride and 5 ml of pyridine to a solution of 500 mg avarone in 1000 ml of 50% ethanol, and distill off the ethanol under water-jet vacuum after 20 hours. Extract the aqueous residue with dichloromethane and chromatograph the reduced dichloromethane extract using a silica gel column and dichloromethane as extraction agent. In the course of this process 3'-ethylamino and 4'-ethylamino avarone is obtained.

reactant | ethylamino hydrochloride | 2.5 g | C(C)NCl | C2H6ClN
reactant | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
reactant | avarone | 500 mg | C[C@H]1CC[C@]2([C@H]([C@]1(C)CC3=CC(=O)C=CC3=O)CCC=C2C)C | C21H28O2
solvent | ethanol | 1000 ml | C(C)O | C2H6O
product | 4'-ethylamino avarone | CCNC1=CC(=O)C(=CC1=O)C[C@@]2([C@H](CC[C@]3([C@H]2CCC=C3C)C)C)C | C23H33NO2
